US08030340B2
2-Amino-2-methyl-1-phenylpropan-1-ol (26b)
37% Hydrochloric acid (1 mL) was added to a stirred solution of 2-methyl-2-nitro-1-phenylpropan-1-ol (26c, 0.12 g, 0.6 mmol in EtOH (10 mL) and water (5 mL). Zinc powder (0.241 g, 3.6 mmol) was slowly added in small portions, the mixture was stirred for 4 hours at +70° C. The mixture was filtered to remove solid zinc residues and concentrated to ⅓ volume by evaporation, diluted with water (50 mL) and washed with ether (125 mL). The acidic waterphase was made basic using KOH (aq) solution, the formed slurry was extracted with ether (3×150 mL). The organic phase was dried (MgSO4) filtered and evaporated. The crude product was further purified by HPLC. Yield 60 mg (60%).

reactant | Hydrochloric acid | 1 mL | Cl | ClH
reactant | 2-methyl-2-nitro-1-phenylpropan-1-ol | CC(C(O)C1=CC=CC=C1)(C)[N+](=O)[O-] | C10H13NO3
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | 5 mL | O | H2O
catalyst | Zinc | 3.6 mmol, 0.241 g | [Zn] | Zn
product | 2-Amino-2-methyl-1-phenylpropan-1-ol | NC(C(O)C1=CC=CC=C1)(C)C | C10H15NO
